US09399646B2
Meta-Chloroperbenzoic acid (1.2 g, 11.7 mmol) was added to a solution of (4-bromophenyl)(trifluoromethyl)sulfane (1.7 g, 6.61 mmol) in dichloromethane (30 mL). After stirring at rt for 12 h, the reaction mixture was poured into ice-water and extracted with EtOAc (3×60 mL). The combined organic layers were dried (MgSO4), concentrated, and purified by column chromatography on silica gel (EtOAc/petroleum ether=0:100 to 1:50) to give 859 mg of 1-bromo-4-((trifluoromethyl)sulfinyl)benzene as a white solid. 1H NMR (CDCl3, 400 MHz): δ 7.79-7.75 (m, 2H), 7.66 (d, 2H). 13C NMR (CDCl3, 100 MHz): δ 134.8, 133.0, 128.7, 127.4, 124.4 (q, J=330 Hz).

reactant | Meta-Chloroperbenzoic acid | 11.7 mmol, 1.2 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | (4-bromophenyl)(trifluoromethyl)sulfane | 6.61 mmol, 1.7 g | BrC1=CC=C(C=C1)SC(F)(F)F | C7H4BrF3S
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | 1-bromo-4-((trifluoromethyl)sulfinyl)benzene | 859 mg | BrC1=CC=C(C=C1)S(=O)C(F)(F)F | C7H4BrF3OS
